US08975400B2
2-(4-fluorophenoxy)-5-formylbenzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 4-fluorophenol.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 2-(4-fluorophenoxy)-5-formylbenzonitrile | FC1=CC=C(OC2=C(C#N)C=C(C=C2)C=O)C=C1 | C14H8FNO2
